US08492540B2
2-{4-[4-(2-tert-Butyl-6-trifluoromethyl-pyrimidin-4-yl)-piperazin-1-yl]butyl}-2H-[1,2,4]triazine-3,5-dione hydrochloride
13.4 g of 2-(4-chloro-butyl)-2H-[1,2,4]triazine-3,5-dione (65.8 mmol) and 18.97 g of 2-tert-butyl-4-piperazin-1-yl-6-trifluoromethyl-pyrimidine (65.8 mmol) were dissolved in 400 mL of dimethylformamide. After addition of 33.9 g of sodium bromide (329 mmol) and 115 mL of N,N-diisopropylethylamine (658 mmol), the reaction was stirred for 48 h at room temperature. Then the solvent was removed under reduced pressure and the obtained residue was trituated with 400 mL of ethyl acetate and the obtained solution was filtered. The filtrate was evaporated to dryness and the remaining oily residue was treated with 100 mL of diethyl ether, filtered and the filtrate was again evaporated to dryness. The crude product was purified three times via silica gel chromatography (ethyl acetate-methanol 0-100%; dichloromethane-methanol 0-5%; dichloro-methane-methanol 0-2%) to yield the free base of the title compound. This product was transferred into its hydrochloride salt via treatment with HCl/diethyl ether (yield 2.56 g).

reactant | 2-(4-chloro-butyl)-2H-[1,2,4]triazine-3,5-dione | 65.8 mmol, 13.4 g | ClCCCCN1N=CC(NC1=O)=O | C7H10ClN3O2
reactant | 2-tert-butyl-4-piperazin-1-yl-6-trifluoromethyl-pyrimidine | 65.8 mmol, 18.97 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C(F)(F)F | C13H19F3N4
reactant | sodium bromide | 329 mmol, 33.9 g | [Br-].[Na+]
reactant | N,N-diisopropylethylamine | 658 mmol, 115 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | 2-{4-[4-(2-tert-Butyl-6-trifluoromethyl-pyrimidin-4-yl)-piperazin-1-yl]butyl}-2H-[1,2,4]triazine-3,5-dione hydrochloride | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1N=CC(NC1=O)=O)C(F)(F)F | InChI=1S/C20H28F3N7O2.ClH/c1-19(2,3)17-25-14(20(21,22)23)12-15(26-17)29-10-8-28(9-11-29)6-4-5-7-30-18(32)27-16(31)13-24-30;/h12-13H,4-11H2,1-3H3,(H,27,31,32);1H
